US04841042
(2S,5R,6S)-2-Allyloxycarbonyl-3,7-dioxo-6-[(1R)-1-tert.-butyldimethylsilyloxyethyl]-1-azabicyclo[3.2.0]heptane
A solution of 3.96 g (10 mmol) of (3S,4R)-3-[(1R)-1-tert.-butyldimethylsilyloxyethyl]-4-[3-allyloxycarbonyl-3-diazo-2-oxopropyl]azetidin-2-one in 50 ml of anhydrous dichloromethane was heated to reflux for 30 minutes in the presence of 40 mg (1 mol-%) of rhodium(II) acetate. The reaction solution was filtered through a little kieselguhr and silica gel and evaporated in vacuo. 3.5 g (95%) of the title compound were obtained as a colorless oil, Rf: 0.46 (toluene:ethyl acetate 7:3).

reactant | (3S,4R)-3-[(1R)-1-tert.-butyldimethylsilyloxyethyl]-4-[3-allyloxycarbonyl-3-diazo-2-oxopropyl]azetidin-2-one | 10 mmol, 3.96 g | C(C)(C)(C)[C@H](CO[SiH](C)C)[C@@H]1C(N[C@@H]1CC(C(=[N+]=[N-])C(=O)OCC=C)=O)=O | C18H29N3O5Si
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | rhodium(II) acetate | 1 mol, 40 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | (2S,5R,6S)-2-Allyloxycarbonyl-3,7-dioxo-6-[(1R)-1-tert.-butyldimethylsilyloxyethyl]-1-azabicyclo[3.2.0]heptane | 3.5 g, 95% | C(C=C)OC(=O)[C@H]1N2C([C@H]([C@H]2CC1=O)[C@@H](CO[SiH](C)C)C(C)(C)C)=O | C18H29NO5Si
